US05308857
A solution of bromine (0.23 ml) in dichloromethane (5 ml) was dropwise added to a mixture of 1-acetyl-3-(5-acetylfuran-2-ylmethyl)urea (1.0 g) in dichloromethane (20 ml) at ambient temperature for 20 minutes and the mixture was stirred at the same temperature for 1.5 hours. The solvent was removed by concentration and residue was triturated with isopropyl ether to give 1-acetyl-3-[5-(bromoacetyl)furan-2-ylmethyl]urea (1.27 g).

reactant | bromine | 0.23 ml | BrBr | Br2
reactant | 1-acetyl-3-(5-acetylfuran-2-ylmethyl)urea | 1.0 g | C(C)(=O)NC(=O)NCC=1OC(=CC1)C(C)=O | C10H12N2O4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-acetyl-3-[5-(bromoacetyl)furan-2-ylmethyl]urea | 1.27 g | C(C)(=O)NC(=O)NCC=1OC(=CC1)C(CBr)=O | C10H11BrN2O4
